US05808062
4-Hydroxy-6-phenyl-3-[(3-phenylpropyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 1-Phenyl-1-(trimethylsilyloxy)ethylene (0.922 g, 4.83 mmol) and diethyl ester of [(3-phenylpropyl)thio]propanedioic acid (1.00 g, 3.22 mmol). m.p. 114°-116° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.74 (m, 2 H), 2.71 (in, 4 H), 6.82 (m, 1 H), 7.16 (m, 3 H), 7.25 (m, 2 H), 7.54 (m, 3 H), 7.81 (m, 2 H), 11.95 (bs, 1 H).

reactant | 1-Phenyl-1-(trimethylsilyloxy)ethylene | 4.83 mmol, 0.922 g | C1(=CC=CC=C1)C(=C)O[Si](C)(C)C | C11H16OSi
reactant | [(3-phenylpropyl)thio]propanedioic acid | 3.22 mmol, 1.00 g | C1(=CC=CC=C1)CCCSC(C(=O)O)C(=O)O | C12H14O4S
product | 4-Hydroxy-6-phenyl-3-[(3-phenylpropyl)thio]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SCCCC1=CC=CC=C1 | C20H18O3S
